US07335674B2
2.8 g (9.02 mmol; 1 equivalent) of methyl 2,5-difluorobenzene carbimidothioate hydroiodide in solution in 20 ml of ethanol is added to a solution of 1.4 g (9.02 mmol) of 2-amino-5-methoxybenzene-1,3-diol in 80 ml of ethanol. The reaction mixture is maintained under stirring at 78° C. for 5 hours then the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a silica column (eluent: dichloromethane/methanol mixture 98:2) and 860 mg (34% yield) of 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazol-4-ol is obtained.

reactant | methyl 2,5-difluorobenzene carbimidothioate hydroiodide | 9.02 mmol, 2.8 g, 1 equivalent | I.FC1=C(C=C(C=C1)F)C(=N)SC
reactant | 2-amino-5-methoxybenzene-1,3-diol | 9.02 mmol, 1.4 g | NC1=C(C=C(C=C1O)OC)O | C7H9NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazol-4-ol | 860 mg, 34% yield | FC1=C(C=C(C=C1)F)C=1OC=2C(N1)=C(C=C(C2)OC)O | C14H9F2NO3
